US05382590
The procedure is analogous to that described in Example 23, but 2.7 g of N-methyl-N-(3-methylphenyl)-2-(N-phenyl-2-phthalimidoacetamido)acetamide, 0.6 g of hydrazine hydrate and 0.8 g of 3-methylphenyl isocyanate are used as the starting material. The product obtained is purified by chromatography on 25 g of silica gel (0.065-0.200 mm) contained in a column 1.7 cm in diameter [eluent: methylene chloride/ethyl acetate (80-20 by volume)], collecting 25 cm3 fractions. Fractions 13 to 27 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diethyl ether, 0.86 g of N-methyl-N-(3-methylphenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 165° C. is obtained.

reactant | N-methyl-N-(3-methylphenyl)-2-(N-phenyl-2-phthalimidoacetamido)acetamide | 2.7 g | CN(C(CN(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=CC=CC=C2)=O)C2=CC(=CC=C2)C | C26H23N3O4
reactant | hydrazine hydrate | 0.6 g | O.NN
reactant | 3-methylphenyl isocyanate | 0.8 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-methyl-N-(3-methylphenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 0.86 g | CN(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C1=CC(=CC=C1)C | C26H28N4O3
